US09445594B2
Preparation of 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-3-(4-(trifluoromethyl)pyridin-3-yl)thiourea (F12)
To 4-(trifluoromethyl)pyridin-3-amine (0.091 g, 0.56 mmol) in tetrahydrofuran and under an atmosphere of nitrogen was added sodium hydride (60% in mineral oil, 0.022 g, 0.56 mmol). 3-(4-Isothiocyanatophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (WO 2011/017513) (0.10 g, 0.28 mmol) was added and the reaction was allowed to stir for 48 hours. The reaction mixture was concentrated. Purification by silica gel chromatography provided the title compound (0.024 g, 16%).

reactant | 4-(trifluoromethyl)pyridin-3-amine | 0.56 mmol, 0.091 g | FC(C1=C(C=NC=C1)N)(F)F | C6H5F3N2
reactant | sodium hydride | 0.56 mmol, 0.022 g | [H-].[Na+]
reactant | 3-(4-Isothiocyanatophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 0.28 mmol, 0.10 g | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-3-(4-(trifluoromethyl)pyridin-3-yl)thiourea | 0.024 g, 16% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)NC(=S)NC=1C=NC=CC1C(F)(F)F)(F)F | C22H14F6N6OS
